US09108957B2
Preparation of 6-(4-[1,2,4]oxadiazol-3-yl-phenyl) -[1,4]oxazepane was performed by the same procedure as that of 5-methyl-[1,4]oxazepane hydrochloride except for utilizing 4-benzyl-6-(4-[1,2,4]oxadiazol-3-yl-phenyl)-[1,4]oxazepane instead of 4-benzyl-5-methyl-[1,4]oxazepane. 6-(4-[1,2,4]Oxadiazol-3-yl-phenyl)-[1,4]oxazepane hydrochloride was obtained as white solid (0.13 g, 0.45 mmol, 86%).

reactant | 6-(4-[1,2,4]oxadiazol-3-yl-phenyl) -[1,4]oxazepane | O1N=C(N=C1)C1=CC=C(C=C1)C1CNCCOC1 | C13H15N3O2
reactant | 5-methyl-[1,4]oxazepane hydrochloride | Cl.CC1NCCOCC1
reactant | 4-benzyl-6-(4-[1,2,4]oxadiazol-3-yl-phenyl)-[1,4]oxazepane | C(C1=CC=CC=C1)N1CCOCC(C1)C1=CC=C(C=C1)C1=NOC=N1 | C20H21N3O2
product | 6-(4-[1,2,4]Oxadiazol-3-yl-phenyl)-[1,4]oxazepane hydrochloride | Cl.O1N=C(N=C1)C1=CC=C(C=C1)C1CNCCOC1 | InChI=1S/C13H15N3O2.ClH/c1-3-11(13-15-9-18-16-13)4-2-10(1)12-7-14-5-6-17-8-12;/h1-4,9,12,14H,5-8H2;1H
